* BUFTH A 入力容量 -- char_comb.py 生成
.include /Users/okamura/Dropbox/98_LSI_Design/TR-1um_TD4/scripts/char/models/ip62_models

* Created by KLayout
*** My special header ***

* cell BUFTH
* pin A
* pin Y
* pin gnd
* pin vdd
.SUBCKT BUFTH A Y gnd vdd
* device instance $1 r0 *1 10.8,47.85 PMOS
XM1 gnd n6 n7 vdd PMOS L=1u W=10.2u AS=21.93p AD=21.93p PS=23.9u PD=23.9u
* device instance $3 r0 *1 26,41.7 PMOS
XM3 vdd n6 Y vdd PMOS L=1u W=10.2u AS=28.56p AD=28.56p PS=26u PD=26u
* device instance $4 r0 *1 10.8,39.15 PMOS
XM4 n6 A n7 vdd PMOS L=1u W=5.1u AS=14.28p AD=7.65p PS=15.8u PD=8.1u
* device instance $5 r0 *1 14.8,39.15 PMOS
XM5 n7 A vdd vdd PMOS L=1u W=5.1u AS=7.65p AD=14.28p PS=8.1u PD=15.8u
* device instance $6 r0 *1 26,17.9 NMOS
XM6 gnd n6 Y gnd NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $7 r0 *1 10.8,17.9 NMOS
XM7 n6 A n3 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $8 r0 *1 14.8,17.9 NMOS
XM8 n3 A gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $9 r0 *1 10.8,10 NMOS
XM9 vdd n6 n3 gnd NMOS L=1u W=6.8u AS=14.62p AD=14.62p PS=18.8u PD=18.8u
.ENDS BUFTH

.temp 25
Vvdd vdd 0 5.0
Vin A_src 0 PWL(0 0 100n 0 103.333n 5)
Rin A_src A 0.001
XU A Y gnd vdd BUFTH
CL_Y Y 0 50f
.tran 0.02n 153.333n
.meas tran q INTEG i(Vin) FROM=100n TO=103.333n

.end
